US07671063B2
To a solution of 3-trifluoromethoxy nitrobenzene (4.0 g, 20 mmol) in DMSO (60 ml), trimethylhydrazinium iodide (4.4 g, 22 mmol) is added and cooled to 0° C. KOt-Bu is added in portions. After stirring for 4 h at 25° C., ice water is added, pH is adjusted to 2-3 with HCl solution, the mixture extracted with EtOAc and washed with brine, followed by drying (Na2SO4) and evaporation of the solvent. Chromatography (silica gel, CH2Cl2/hexane=1:1) gave 2-nitro-6-trifluoromethoxy-phenylamine.

reactant | 3-trifluoromethoxy nitrobenzene | 20 mmol, 4.0 g | FC(OC=1C=C(C=CC1)[N+](=O)[O-])(F)F | C7H4F3NO3
reactant | trimethylhydrazinium iodide | 22 mmol, 4.4 g | [I-].C[N+](N)(C)C
reactant | KOt-Bu | CC(C)(C)[O-].[K+]
reactant | HCl | Cl | ClH
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 2-nitro-6-trifluoromethoxy-phenylamine | [N+](=O)([O-])C1=C(C(=CC=C1)OC(F)(F)F)N | C7H5F3N2O3
